US07345048B2
(II B) Tert-butyl-N-(2-{[1-(1-naphthyl)ethyl]amino}propyl)carbamate
To a solution of 1-acetonaphthone (152 μl, 1 mmol) in acetonitrile (2 ml) was added tert-butyl N-(3-aminopropyl)-carbamate (209 μl, 1.2 mmol), NaBH3CN (126 mg, 2 mmol) and anhydrous ZnCl2 (136 mg, 1 mmol). The reaction was heated for 70 hours at 80° C. in a screw cap vial with magnetic stirring. The precipitate was filtered off and the solution was evaporated. The residue was dissolved in 3 ml 0.1N HCl and extracted with methylenchloride (1×5 ml). The organic layer was dried (Na2SO4) and evaporated. The crude product was purified by silica gel flash chromatography using 1. CHCl2/MeOH (10/0.1) and 2. CH2Cl2/MeOH (10/1), as an eluent, to give an oily product 70%. The structure characterization of the products was made with 1HNMR; 13CNMR; MS (m/z): 329 (MH+).

reactant | 1-acetonaphthone | 1 mmol, 152 μl | CC(=O)C1=CC=CC2=CC=CC=C21 | C12H10O
reactant | tert-butyl N-(3-aminopropyl)-carbamate | 1.2 mmol, 209 μl | NCCCNC(OC(C)(C)C)=O | C8H18N2O2
reactant | NaBH3CN | 2 mmol, 126 mg | [BH3-]C#N.[Na+]
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
catalyst | ZnCl2 | 1 mmol, 136 mg | [Cl-].[Cl-].[Zn+2]
product | Tert-butyl-N-(2-{[1-(1-naphthyl)ethyl]amino}propyl)carbamate | 70% | C(C)(C)(C)OC(NCC(C)NC(C)C1=CC=CC2=CC=CC=C12)=O | C20H28N2O2
